US06825189B1
1-(6-Chloro-3-pyridyl)-homopiperazine (9K)
A mixture of 1-(6-chloro-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine (1.7 g, 5.5 mmol), trifluoro acetic acid (4.5 ml, 55 mmol) and dichloromethane at room temperature for 1 h. The mixture was evaporated. Chromatography on silica gel with a mixture of petroleum:ethyl acetate (1:1) gave the title compound as free base. The corresponding salt was obtained by addition of a diethyl ether and methanol mixture (9:1) saturated with fumaric acid. Mp 165-167° C. Yield 0.72 g, 40%.

reactant | 1-(6-chloro-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine | 5.5 mmol, 1.7 g | ClC1=CC=C(C=N1)N1CCN(CCC1)C(=O)OC(C)(C)C | C15H22ClN3O2
reactant | trifluoro acetic acid | 55 mmol, 4.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(6-Chloro-3-pyridyl)-homopiperazine | ClC1=CC=C(C=N1)N1CCNCCC1 | C10H14ClN3
